US07482356B2
Preparation of 2-(2-chlorobenzyl)-3-[2-(tetrahydro-pyran-4-ylamino)-pyrimidin-4-yl]-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one:
To a solution of 2-(2-chloro-benzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 8, (0.10, 0.26 mmol) in NMP (2 mL) is added amino tetrahydropyran (0.09 mL, 0.78 mmol). After stirring 1.5 hours at 90° C., the reaction mixture is diluted with methanol (to 5 mL) and is purified by reversed phase liquid chromatography (CH3CN/water/1% TFA) to afford 44 mg (40%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.30 (d, J=5.1 Hz, 1H), 7.39-7.12 (m, 4H), 6.57 (d, J=5.1 Hz, 1H), 4.10-3.94 (m, 9H), 3.60-3.48 (m, 2H), 2.80-2.68 (m, 2H), 2.95-1.95 (m, 2H), 1.65-1.50 (m, 2H); ESI− MS: m/z (rel intensity) 426.0 (100, M+−H).

reactant | 2-(2-chloro-benzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C18H17ClN4O3S
reactant | amino tetrahydropyran | 0.78 mmol, 0.09 mL | NC1OCCCC1 | C5H11NO
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2-chlorobenzyl)-3-[2-(tetrahydro-pyran-4-ylamino)-pyrimidin-4-yl]-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 44 mg, 40% | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)NC2CCOCC2)C=CC=C1 | C22H24ClN5O2
